US04495190
Preparation of 4-(2-amino-6-chloropurin-9-yl)methyl-1,3-dioxane
Equimolar amounts of 2-amino-6-chloropurine, 4-bromoethyl-1,3-dioxane (prepared according to Price C. C. J. Amer. Chem. Soc. 1950, 72, 5335-6) and anhydrous potassium carbonate were mixed in dry dimethyl formamide. After stirring for seven days at room temperature the mixture was filtered and the filtrate evaporated at reduced pressure. The residue was triturated with hot ethanol and undissolved material filtered off. The filtrate was evaporated to dryness and a yellow crystalline solid was obtained which was recrystallized from chloroform to give colourless rod-shaped crystalls. M.p. 169°-70° C. (uncorr.) UV Spectra (hydrochloric acid 0.01 mol/l): λmax (nm) 308, 245. UV spectra (ethanol): λmax (nm) 310, 247. M.S.: 11.2 a J., m/e (int): 271/269 (0.19/0.55), 226/224 (0.11/0.28) 212/210 (0.38/0.82) 171/169 (0.35/1.0)

reactant | 2-amino-6-chloropurine | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | 4-bromoethyl-1,3-dioxane | BrCCC1OCOCC1 | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.01 mol/l | Cl | ClH
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-amino-6-chloropurin-9-yl)methyl-1,3-dioxane | NC1=NC(=C2N=CN(C2=N1)CC1OCOCC1)Cl | C10H12ClN5O2
